US03984551
A suspension of 2,6-dinitrophenyl phenyl ether (6.5g.) in ethanol (100ml.) was shaken with hydrogen at room temperature and atmospheric pressure in the presence of palladium-on-charcoal (0.5g. of 5% w/w) as catalyst. When the theoretical amount of hydrogen (3.4 l.) had been absorbed, the mixture was filtered and the filtrate evaporated to dryness under reduced pressure. The solid residue (4.9g.) was crystallised from cyclohexane to give 2,6-diaminophenyl phenyl ether, m.p. 110°-111°C.

reactant | 2,6-dinitrophenyl phenyl ether | 6.5g | C1(=CC=CC=C1)OC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C12H8N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5g | [Pd] | Pd
product | 2,6-diaminophenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=CC=C1N)N | C12H12N2O
